US05043334
Ethyl (Z)-2-fluoromethoxyimino-2-(2-triphenylmethylaminothiazol-4-yl)acetate
Ethyl (Z)-2-hydroxyimino-2-(2-triphenylmethylaminothiazol-4-yl)acetate, hydrochloride salt (8.7 g) was stirred with potassium carbonate (15.35 g) in dimethyl sulphoxide (30 ml) under nitrogen at 21° . Bromofluoromethane (ca 3 g) was added. The nitrogen flow was stopped and the stirring continued for two hours. The mixture was poured into an ice-water mixture with stirring and the solid was collected by filtration and washed with water. The solid was dissolved in methylene chloride and the organic layer was separated and dried with magnesium sulphate. Evaporation gave a foam. This was dissolved in methylene chloride and pre-absorbed onto Kieselgel 60 (50 g). This was added to the top of a column of similar silica (125 g) set up in 10% ethyl acetate in cyclohexane. The column was eluted successively with 10%, 20% and 33% ethyl acetate in cyclohexane. After combination of appropriate fractions, evaporation gave the title compound (8.06 g) as a foam; λmax (EtOH) 302 nm (E1 cm1% 92), λinfl include 227.5 nm (E1 cm1% 546) and 259 nm (E1 cm1% 221), νmax (CHBr3) 3400 (NH), 1739 (ester) and 1533 cm-1 (C=N).

reactant | Ethyl (Z)-2-hydroxyimino-2-(2-triphenylmethylaminothiazol-4-yl)acetate, hydrochloride salt | 8.7 g | Cl.O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 15.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromofluoromethane | ca 3 g | BrCF | CH2BrF
solvent | dimethyl sulphoxide | 30 ml | CS(=O)C | C2H6OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl (Z)-2-fluoromethoxyimino-2-(2-triphenylmethylaminothiazol-4-yl)acetate | 8.06 g | FCO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24FN3O3S
